US07235585B2
Diallyl L-glutamyl isocyanate (X-16)
To diallyl L-glutamate p-toluene sulfonate (the TsOH salt of diallyl L-glutamate) (1.08 g, 2.7 mmol, NovaBiochem) and triphosgene (0.30 g, 1.03 mmol) in 20 mL toluene, stirred at −78° C., trietylamine (0.86 mL, 6.2 mmol) was added. After 30 min, the reaction mixture was allowed to reach room temperature and was used without further purification. A typical IR spectrum was obtained v=2253 cm−1 (NCO, v. intense).

reactant | diallyl L-glutamate p-toluene sulfonate | C1(=CC=C(C=C1)S(=O)(=O)O)C.N[C@@H](CCC(=O)OCC=C)C(=O)OCC=C
reactant | TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | diallyl L-glutamate | N[C@@H](CCC(=O)OCC=C)C(=O)OCC=C | C11H17NO4
reactant | triphosgene | 1.03 mmol, 0.30 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | trietylamine | 6.2 mmol, 0.86 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | Diallyl L-glutamyl isocyanate | C(C=C)N([C@@H](CCC(O)=O)C(=O)N=C=O)CC=C | C12H16N2O4
